* D:\Shared\输出端原理图\.ltspice-mcp\verify\export\full_bus.9596f801\full_bus.asc
* Generated by LTspice 26.0.2 for Windows.
R5 V3V3 N001 100k
R7 N001 0 10k
R6 I_SET N001 10k
C12 I_SET 0 100n
X§U3 I_SET I_SENSE V3V3 0 OUTA OPAx333 ;§pnba In+)In-)V+)V-)OUT
C13 V3V3 0 100n
R8 STIM_GATE OUTA 10k
C14 OUTA I_SENSE 100p
X§Q1 BONE_N STIM_GATE I_SENSE N7002 ;§pnba D)G)S
R9 STIM_GATE I_SENSE 10Meg
R10 I_SENSE 0 3k
R_BONE BONE_P BONE_N 10k
VBUS V_BUS PGND 12
C5 V_BUS PGND 1µ
C6 V_BUS PGND 100n
C7 V_BUS PGND 100n
X§XD5 V_BUS PGND VESD16_APPROX ;§pnba K)A
X§U1 V_BUS BONE_P PGND FB ST715_APPROX ;§pnba IN)OUT)GND)FB
C8 BONE_P PGND 470n
R1 BONE_P FB_TOP 560k
R2 FB_TOP FB 6.8k
R3 FB PGND 100k
X§U2 BONE_P V3V3 PGND MCP1703A33_APPROX ;§pnba IN)OUT)GND
C9 BONE_P PGND 100n
C10 V3V3 PGND 1µ
R4 0 PGND 1m
.include models/OPAx333.LIB
.include models/2N7002_DIODES.lib
.include models/APPROX_NOT_VENDOR.lib
.include solver.inc
.dc VBUS 4 16 0.25
.options plotwinsize=0 numdgt=7
.backanno
.end
