* D:\Shared\LPspice_circuit\.ltspice-mcp\verify\export\full_bus.a6cf92bd\full_bus.asc
* Generated by LTspice 26.0.2 for Windows.
VBUS V_BUS PGND 3.3
C5 V_BUS PGND 1µ
C6 V_BUS PGND 100n
X§U1 V_BUS BONE_P PGND FB ST715_APPROX ;§pnba IN)OUT)GND)FB
C7 V_BUS PGND 100n
C8 BONE_P PGND 470n
X§D5 V_BUS PGND VESD16_APPROX ;§pnba K)A
R1 FB_TOP BONE_P 560k
R2 FB FB_TOP 6.8k
R3 PGND FB 100k
X§U2 BONE_P V3V3 PGND MCP1703A33_APPROX ;§pnba IN)OUT)GND
C9 BONE_P PGND 100n
C10 V3V3 PGND 1µ
R4 PGND 0 1m
R5 V3V3 DIV 100k
R7 DIV 0 10k
R6 I_SET DIV 10k
C12 I_SET 0 100n
X§U3 I_SET I_SENSE V3V3 0 OUTA OPAx333 ;§pnba In+)In-)V+)V-)OUT
C13 V3V3 0 100n
C14 OUTA I_SENSE 100p
R8 STIM_GATE OUTA 10k
R_BONE BONE_P BONE_N 10k
X§Q1 BONE_N STIM_GATE I_SENSE N7002 ;§pnba D)G)S
R9 STIM_GATE I_SENSE 10Meg
R10 I_SENSE 0 3k
.include models/OPAx333.LIB
.include models/2N7002_DIODES.lib
.include models/APPROX_NOT_VENDOR.lib
.include inc/solver.inc
* .dc VBUS 4 16 0.25
.save V(V_BUS) V(BONE_P) V(V3V3) V(I_SET) V(I_SENSE) V(OUTA) V(BONE_N) I(R_BONE) I(VBUS)
.options plotwinsize=0 numdgt=7
.meas tran IBONE AVG -I(R_BONE) FROM 25m TO 30m
.meas TRAN VBONE AVG V(BONE_P,BONE_N) FROM 25m TO 30m
.tran 30m startup
.backanno
.end
