* SENSITIVITY STUDY - NOT A MANUFACTURER MODEL.
* Diodes Inc. 2N7002 (models/2N7002_DIODES.lib) with ONLY the threshold
* voltage changed, so this file can be dropped in wherever the vendor model is
* used (the subckt keeps the name N7002). Everything else - geometry, KP,
* capacitances, diodes - is the vendor text verbatim.
* VTO = 3.0 V : PAST the datasheet limit, to show the cliff.
* Why: 100 uA needs Vgs - Vth = 23.6 mV, so the gate must reach Vth + 0.324 V
* and the OPAx333 output tops out near 3.27 V on a 3.3 V rail.
.SUBCKT N7002 10 20 30
*     TERMINALS:  D  G  S
M1 1 2 3 3 NMOS L = 1E-006 W = 1E-006
RD 10 1 0.976
RS 30 3 0.001
RG 20 2 160.6
CGS 2 3 2E-011
EGD 12 0 2 1 1
VFB 14 0 0
FFB 2 1 VFB 1
CGD 13 14 5.9E-011
R1 13 0 1
D1 12 13 DLIM
DDG 15 14 DCGD
R2 12 15 1
D2 15 0 DLIM
DSD 3 10 DSUB
.MODEL NMOS NMOS LEVEL = 3 VMAX = 1E+006 ETA = 0 VTO = 3.0
+ TOX = 6E-008 NSUB = 1E+016 KP = 0.4654 KAPPA = 1E-015 U0 = 400
.MODEL DCGD D CJO = 1.2E-011 VJ = 0.6 M = 0.6
.MODEL DSUB D IS = 6.808E-010 N = 1.576 RS = 0.1408 BV = 72 CJO = 8E-012 VJ = 0.8 M = 0.6474
.MODEL DLIM D IS = 0.0001
.ENDS
