* D:\Shared\输出端原理图\.ltspice-mcp\verify\export\full_bus.f44c31c9\full_bus.asc
* Generated by LTspice 26.0.2 for Windows.
R5 V3V3 N002 100k
R7 N002 0 10k
R6 I_SET N002 10k
C12 I_SET 0 100n
X§U3 I_SET I_SENSE V3V3 0 OUTA OPAx333 ;§pnba In+)In-)V+)V-)OUT
C13 V3V3 0 100n
R8 0 OUTA 10k
C14 OUTA I_SENSE 100p
X§Q1 BONE_N 0 I_SENSE N7002 ;§pnba D)G)S
R9 0 I_SENSE 10Meg
R10 I_SENSE 0 3k
R_BONE BONE_P BONE_N 10k
VBUS N001 PGND 12
C5 N001 PGND 1µ
C6 N001 PGND 100n
C7 N001 PGND 100n
X§XD5 N001 PGND VESD16_APPROX ;§pnba K)A
X§U1 N001 BONE_P PGND N003 ST715_APPROX ;§pnba IN)OUT)GND)FB
C8 BONE_P PGND 470n
R1 BONE_P N004 560k
R2 N004 N003 6.8k
R3 N003 PGND 100k
X§U2 BONE_P V3V3 PGND MCP1703A33_APPROX ;§pnba IN)OUT)GND
C9 BONE_P PGND 100n
C10 V3V3 PGND 1µ
R4 0 PGND 1m
.include models/OPAx333.LIB
.include models/2N7002_DIODES.lib
.include models/APPROX_NOT_VENDOR.lib
.include solver.inc
.dc VBUS 4 16 0.25
.options plotwinsize=0 numdgt=7
.backanno
.end
