* Source: https://www.diodes.com/spice/download/1941/2N7002.spice.txt
* Retrieved through web text reader, 2026-09-21; electrical lines unchanged.
* DIODES INCORPORATED AND ITS AFFILIATED COMPANIES AND SUBSIDIARIES (COLLECTIVELY, "DIODES")
* PROVIDE THESE SPICE MODELS AND DATA (COLLECTIVELY, THE "SM DATA") "AS IS" AND WITHOUT ANY
* REPRESENTATIONS OR WARRANTIES, EXPRESS OR IMPLIED, INCLUDING ANY WARRANTY OF MERCHANTABILITY
* OR FITNESS FOR A PARTICULAR PURPOSE, ANY WARRANTY ARISING FROM COURSE OF DEALING OR COURSE OF
* PERFORMANCE, OR THAT ACCESS TO OR OPERATION OF THE SM DATA WILL BE UNINTERRUPTED,
* OR THAT THE SM DATA OR ANY SIMULATION USING THE SM DATA WILL BE ERROR FREE. TO THE MAXIMUM
* EXTENT PERMITTED BY LAW, IN NO EVENT WILL DIODES BE LIABLE FOR ANY DIRECT OR INDIRECT,
* SPECIAL, INCIDENTAL, PUNITIVE OR CONSEQUENTIAL DAMAGES ARISING OUT OF OR IN CONNECTION WITH
* THE PRODUCTION OR USE OF SM DATA, HOWEVER CAUSED AND UNDER WHATEVER CAUSE OF ACTION OR THEORY
* OF LIABILITY BROUGHT (INCLUDING, WITHOUT LIMITATION, UNDER ANY CONTRACT, NEGLIGENCE OR OTHER
* TORT THEORY OF LIABILITY), EVEN IF DIODES HAS BEEN ADVISED OF THE POSSIBILITY OF SUCH DAMAGES,
* AND DIODES' TOTAL LIABILITY (WHETHER IN CONTRACT, TORT OR OTHERWISE) WITH REGARD TO THE SM
* DATA WILL NOT, IN THE AGGREGATE, EXCEED ANY SUMS PAID BY YOU TO DIODES FOR THE SM DATA.
*---------- 2N7002 Spice Model ----------
.SUBCKT N7002 10 20 30
*     TERMINALS:  D  G  S
M1 1 2 3 3 NMOS L = 1E-006 W = 1E-006
RD 10 1 0.976
RS 30 3 0.001
RG 20 2 160.6
CGS 2 3 2E-011
EGD 12 0 2 1 1
VFB 14 0 0
FFB 2 1 VFB 1
CGD 13 14 5.9E-011
R1 13 0 1
D1 12 13 DLIM
DDG 15 14 DCGD
R2 12 15 1
D2 15 0 DLIM
DSD 3 10 DSUB
.MODEL NMOS NMOS LEVEL = 3 VMAX = 1E+006 ETA = 0 VTO = 2.154
+ TOX = 6E-008 NSUB = 1E+016 KP = 0.4654 KAPPA = 1E-015 U0 = 400
.MODEL DCGD D CJO = 1.2E-011 VJ = 0.6 M = 0.6
.MODEL DSUB D IS = 6.808E-010 N = 1.576 RS = 0.1408 BV = 72 CJO = 8E-012 VJ = 0.8 M = 0.6474
.MODEL DLIM D IS = 0.0001
.ENDS
*Diodes N7002 Spice Model v0 Last Revised 2017/2/9
