* D:\Shared\输出端原理图\.ltspice-mcp\verify\export\sink_vendor.646af29c\sink_vendor.asc
* Generated by LTspice 26.0.2 for Windows.
R5 0 N001 100k
R7 N001 0 10k
R6 I_SET N001 10k
C12 I_SET 0 100n
V33 NC_01 0 3.3
C13 0 0 100n
R8 0 OUTA 10k
C14 OUTA I_SENSE 100p
X§Q1 BONE_N 0 I_SENSE N7002 ;§pnba D)G)S
R9 0 I_SENSE 10Meg
R10 I_SENSE 0 3k
R_BONE BONE_P BONE_N 10k
V8 BONE_P 0 8.0016
.include models/OPAx333.LIB
.include models/2N7002_DIODES.lib
.include solver.inc
.op
.options plotwinsize=0 numdgt=7
.backanno
.end
