* This library is valid for Vishay VESDxxC1-HD1 diodes:                 
*                                                               
*       VESD01C1
*	VESD03C1
*	VESD05C1
*	VESD08C1
*	VESD12C1
*	VESD16C1
*	VESD26C1
*	VESD33C1
*
*  86547SPICE_Vishay_VESD01C1-HD1-to-VESD33C1-HD1.LIB
*
*  TNOM=27GRD, RS without heating
*                                                               
*  Vishay Semiconductor GmbH
*  Claus Mähner, February 2022
*
*  Copyright:                            
*  Vishay Intertechnology, Inc.          
*                                                             
*******************************************************************************
.subckt VESD01C1 1 2
D2 2 6 DBLOCK  
.model DBLOCK D(IS=1f RS=1n)  
D3 7 6 DOFFSET  
.model DOFFSET D(IS=1f RS=1n BV=0.87 NBV=0.5)  
D4 7 1 DHIGH  
.model DHIGH D(IS=350u N=12 RS=1)  
D5 2 1 DLOW 
.model DLOW D(IS=500p N=4 RS=1000 IKF=4u)  
D6 1 2 DF  
.model DF D(IS=7e-16 N=1 RS=0.107 CJO=175p M=0.25 VJ=0.48 ISR=2e-10 NR=2)
D7 2 3 DVC  
.model DVC D(IS=1n N=0.5 RS=0.132)
VC0 3 1 4.8
.ends VESD01C1
*******************************************************************************
.subckt VESD03C1 1 2
D2 2 6 DBLOCK  
.model DBLOCK D(IS=1f RS=1n)  
D3 7 6 DOFFSET  
.model DOFFSET D(IS=1f RS=1n BV=3.3 NBV=0.5)  
D4 7 1 DHIGH  
.model DHIGH D(IS=350n N=2 ISR=1m NR=20 RS=0.146)  
D5 2 1 DLOW 
.model DLOW D(IS=4p N=6.5 RS=100 IKF=4.2u)  
D6 1 2 DF  
.model DF D(IS=5e-16 N=1 RS=0.107 CJO=122p M=0.35 VJ=0.73 ISR=2e-13 NR=1.5)
.ends VESD03C1
*******************************************************************************
.subckt VESD05C1 1 2
D1 1 2 DF  
.model DF D(IS=3.3e-16 N=1 RS=0.195 CJO=62p M=0.34 VJ=0.70 ISR=1e-16 NR=2
+BV=7.5 IBV=1m NBV=0.6 IBVL=300n NBVL=8)
D2 1 2 DVCF 
.model DVCF D(IS=1f N=1.2 RS=0.274) 
.ends VESD05C1
*******************************************************************************
.subckt VESD08C1 1 2
D1 1 2 DF  
.model DF D(IS=3.3e-16 N=1 RS=0.210 CJO=47p M=0.33 VJ=0.60 ISR=1e-16 NR=2
+BV=10.1 IBV=1m NBV=0.6 IBVL=70n NBVL=8)
D2 1 2 DVCF 
.model DVCF D(IS=1f N=1.2 RS=0.173) 
.ends VESD08C1
*******************************************************************************
.subckt VESD12C1 1 2
D1 1 2 DF  
.model DF D(IS=3.3e-16 N=1 RS=0.47 CJO=30p M=0.34 VJ=0.67 ISR=1e-16 NR=2
+BV=14.6 IBV=10u NBV=0.6 IBVL=10n NBVL=5)
D2 1 2 DVCF 
.model DVCF D(IS=1f N=1.2 RS=0.137) 
.ends VESD12C1
*******************************************************************************
.subckt VESD16C1 1 2
D1 1 2 DF  
.model DF D(IS=2e-16 N=1 RS=0.53 CJO=27p M=0.34 VJ=0.64 ISR=1e-16 NR=2
+BV=17.7 IBV=10u NBV=0.6 IBVL=100n NBVL=5)
D2 1 2 DVCF 
.model DVCF D(IS=1f N=1.2 RS=0.155) 
.ends VESD16C1
*******************************************************************************
.subckt VESD26C1 1 2
D1 1 2 DF  
.model DF D(IS=9e-16 N=1.03 RS=2.2 CJO=17p M=0.35 VJ=0.66 ISR=1e-16 NR=2
+BV=30.1 IBV=10u NBV=0.6 IBVL=10n NBVL=5)
D2 1 2 DVCF 
.model DVCF D(IS=1f N=1.2 RS=0.121) 
.ends VESD26C1
*******************************************************************************
.subckt VESD33C1 1 2
D1 1 2 DF  
.model DF D(IS=1.3e-15 N=1.03 RS=4.3 CJO=14p M=0.37 VJ=0.69 ISR=1e-16 NR=2
+BV=39.9 IBV=10u NBV=0.6 IBVL=10n NBVL=5)
D2 1 2 DVCF 
.model DVCF D(IS=1f N=1.1 RS=0.111) 
.ends VESD33C1
*******************************************************************************
			