* USER-CREATED APPROXIMATIONS, NOT MANUFACTURER MODELS.
* For connectivity/DC feasibility only, NOT LDO stability/startup/OVP qualification.
* No thermal shutdown, damage, process corners, reverse-current protection or validated PSRR.
* ST715: 1.2V reference; 3.8uA Iq; 5.88ohm dropout surrogate (0.5V/85mA).
* 0.10A current cap is an ASSUMPTION, not a guaranteed short-circuit current.
* 100k loop gain and 1us pole are numerical assumptions, not measured bandwidth.
.subckt ST715_APPROX IN OUT GND FB
BREF REF GND V=1.2*limit(V(IN,GND)/2.5,0,1)
BERR ERR GND V=limit(1e5*(V(REF,GND)-V(FB,GND)),0,1)
RP ERR CTRL 1k
CP CTRL GND 1n
BPASS IN OUT I=limit(V(CTRL,GND),0,1)*limit(V(IN,OUT)/5.88,0,0.10)
BIQ IN GND I=3.8u*limit(V(IN,GND)/2.5,0,1)
RFB FB GND 1T
.ends ST715_APPROX
* MCP1703A 3.3V surrogate: typical 2uA Iq, 2.1ohm dropout (525mV/250mA).
* Numerical dynamics unvalidated; current cap 0.30A is an assumption.
.subckt MCP1703A33_APPROX IN OUT GND
BREF REF GND V=3.3*limit(V(IN,GND)/2.7,0,1)
BERR ERR GND V=limit(1e5*(V(REF,GND)-V(OUT,GND)),0,1)
RP ERR CTRL 1k
CP CTRL GND 1n
BPASS IN OUT I=limit(V(CTRL,GND),0,1)*limit(V(IN,OUT)/2.1,0,0.30)
BIQ IN GND I=2u*limit(V(IN,GND)/2.7,0,1)
.ends MCP1703A33_APPROX
* VESD16C1-02V approximate avalanche branch.
* Typical points 17.9V at 1mA, 25.3V at 3.6A => avalanche slope ~2.06ohm.
* NOT a validated ESD model. Forward branch/capacitance/leakage are approximate.
.subckt VESD16_APPROX K A
BAV K A I=max((V(K,A)-17.89794)/2.06,0)
DF A K FORWARD_ESD
CJ K A 27p
RL K A 1.6G
.model FORWARD_ESD D(Is=1p N=1.3 Rs=0.15)
.ends VESD16_APPROX
* LTspice standard.dio: 1N5819 from OnSemi; same-family surrogate, NOT exact WS model.
.model D1N5819_PROXY D(Is=31.7u Rs=.051 N=1.373 Cjo=110p M=.35 Eg=.69 Xti=2)
