* D:\Shared\输出端原理图\.ltspice-mcp\verify\export\sink_vendor.4321e01d\sink_vendor.asc
* Generated by LTspice 26.0.2 for Windows.
R5 V3V3 N001 100k
R7 N001 0 10k
R6 I_SET N001 10k
C12 I_SET 0 100n
V33 V3V3 0 3.3
X§U3 I_SET I_SENSE V3V3 0 OUTA OPAx333 ;§pnba In+)In-)V+)V-)OUT
C13 V3V3 0 100n
R8 STIM_GATE OUTA 10k
C14 OUTA I_SENSE 100p
X§Q1 BONE_N STIM_GATE I_SENSE N7002 ;§pnba D)G)S
R9 STIM_GATE I_SENSE 10Meg
R10 I_SENSE 0 3k
R_BONE BONE_P BONE_N 10k
V8 BONE_P 0 8.0016
.include models/OPAx333.LIB
.include models/2N7002_DIODES.lib
.include solver.inc
.op
.options plotwinsize=0 numdgt=7
.backanno
.end
